US06136810
Under an atmosphere of argon, 1.6 M hexane (30 ml) solution of n-butyl lithium was added dropwise to a tetrahydrofuran (200 ml) solution of diisopropylamine (5.52 g, 54.7 mmol) which was cooled at -78° C., and the mixture was stirred for 30 minutes 2-Chloropyridine (5.71 g, 50.3 mmol) was added dropwise to the reaction solution, followed by 90 minutes of stirring. 2-Thiophenecarbaldehyde (6.01 g, 53.7 mmol) was added dropwise to the reaction solution, followed by 30 minutes of stirring. The reaction solution was mixed with brine and extracted with chloroform. The organic layer was washed with brine and dried over anhydrous sodium sulfate. After removing sodium sulfate by filtration, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform) to give α-(2-chloropyridin-3-yl)-2-thiophenmethanol (6.66 g, 27.5 mmol, 59%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 54.7 mmol, 5.52 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-Chloropyridine | 50.3 mmol, 5.71 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | 2-Thiophenecarbaldehyde | 53.7 mmol, 6.01 g | S1C(=CC=C1)C=O | C5H4OS
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M, 30 ml | CCCCCC | C6H14
product | α-(2-chloropyridin-3-yl)-2-thiophenmethanol | 27.5 mmol, 6.66 g, 59% | ClC1=NC=CC=C1C(O)C=1SC=CC1 | C10H8ClNOS
